US04476311
(D) 4-Hydroxymethyl-5-(3-methoxyphenyl)-1-phenylpyrrolidin-2-one
To 26.7 gm. of methyl 2-(3-methoxyphenyl)-5-oxo-1-phenylpyrrolidin-3-carboxylate in 200 ml of absolute methanol was added slowly at 0°-10° 24.8 gm. of sodium borohydride. The reaction was run and worked up following the procedure of example 1D. Drying (Na2SO4), filtration, and concentration in vacuo provided 17.2 gm. of colorless crystals, m.p. 123°-126°.

reactant | methyl 2-(3-methoxyphenyl)-5-oxo-1-phenylpyrrolidin-3-carboxylate | COC=1C=C(C=CC1)C1N(C(CC1C(=O)OC)=O)C1=CC=CC=C1 | C19H19NO4
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 4-Hydroxymethyl-5-(3-methoxyphenyl)-1-phenylpyrrolidin-2-one | OCC1CC(N(C1C1=CC(=CC=C1)OC)C1=CC=CC=C1)=O | C18H19NO3
